### PR TITLE
chore(FieldTheory/IntermediateField/Adjoin): fix recursors

### PR DESCRIPTION
**Pull request by plp127**
Name the motive `motive` and name the minor premises according to their contents. Also make the motive implicit.

---

The motivation for naming the motive `motive` is to make it consistent across all the recursors, and to give it a more descriptive name, and to make it easier to find recursors by a text search. The motivation for renaming the minor premise arguments is to give them more descriptive names, since they are used as the names of `induction` arms and `cases` arms. The motivation for making the motive implicit is that you usually don't want to fill this in yourself, but rather let `induction` or `cases` or `@[elab_as_elim]` fill it in for you. The motive can still be specified explicitly by writing `(motive := ...)`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 1]
```diff
@@ -729,12 +729,14 @@ namespace Field
 theorem finSepDegree_dvd_finrank : finSepDegree F E ∣ finrank F E := by
   by_cases hfd : FiniteDimensional F E
   · rw [← finSepDegree_top F, ← finrank_top F E]
-    refine induction_on_adjoin (fun K : IntermediateField F E ↦ finSepDegree F K ∣ finrank F K)
-      (by simp_rw [finSepDegree_bot, IntermediateField.finrank_bot, one_dvd]) (fun L x h ↦ ?_) ⊤
-    have hdvd := mul_dvd_mul h <| finSepDegree_adjoin_simple_dvd_finrank L E x
-    set M := L⟮x⟯
-    rwa [finSepDegree_mul_finSepDegree_of_isAlgebraic F L M,
-      Module.finrank_mul_finrank F L M] at hdvd
+    change finSepDegree F (⊤ : IntermediateField F E) ∣ finrank F (⊤ : IntermediateField F E)
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/SeparableDegree.lean]: This `change` is a regression in my opinion: it is not at all obvious the difference is a `finrank F (⊤ : Submodule F E)` turns into `finrank F (⊤ : IntermediateField F E)`.

A solution would be to replace the `rw` and `change` with:
```lean4
    suffices finSepDegree F (⊤ : IntermediateField F E) ∣ finrank F (⊤ : IntermediateField F E) by
      simpa
```

And have `simp` apply `finrank_top'` instead of `finrank_top`.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 2]
```diff
@@ -757,14 +759,16 @@ theorem finSepDegree_eq_finrank_of_isSeparable [Algebra.IsSeparable F E] :
...
   rw [← finSepDegree_top F, ← finrank_top F E]
-  refine induction_on_adjoin (fun K : IntermediateField F E ↦ finSepDegree F K = finrank F K)
-    (by simp_rw [finSepDegree_bot, IntermediateField.finrank_bot]) (fun L x h ↦ ?_) ⊤
-  have heq : _ * _ = _ * _ := congr_arg₂ (· * ·) h <|
-    (finSepDegree_adjoin_simple_eq_finrank_iff L E x (IsAlgebraic.of_finite L x)).2 <|
-      IsSeparable.tower_top L (Algebra.IsSeparable.isSeparable F x)
-  set M := L⟮x⟯
-  rwa [finSepDegree_mul_finSepDegree_of_isAlgebraic F L M,
-    Module.finrank_mul_finrank F L M] at heq
+  change finSepDegree F (⊤ : IntermediateField F E) = finrank F (⊤ : IntermediateField F E)
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/SeparableDegree.lean]: Same here: if you group the `rw` and `change` as a `suffices ... by simpa` then it becomes clearer what the difference is.

**Review by Vierkantor — CHANGES_REQUESTED** [review]
So is the reason for these changes to make the `induction` tactic work with `induction_on_adjoin`? Please explain the motivation in the PR description.

**Comment by plp127** [comment]
I've explained the motivation in the PR description.
